US05773423
A mixture of 6-chloropurine riboside (Aldrich Chemical Co., 100 mg, 0.35 mmol), triethylamine (0.146 ml, 1.05 mmol), and 3-iodobenzylamine hydrochloride (103 mg, 0.38 mmol) in ethanol (2 ml) was heated for 18 h at 85° C. in a sealed bottle. After the reaction mixture was concentrated to dryness, the residue was purified on a silica gel column chromatography (CHCl3 --MeOH, 10:1) to yield N6 -(3-iodobenzyl)-9-[β-D-ribofuranosyl]-adenine (148 mg, 88%) as a colorless solid: m.p. 172° C.; 1H NMR (DMSO-d6) d 3.54 (m, 1H, H-5'a), 3.67 (m, 1H, H-5'b), 3.96 (d, J=3.3 Hz, 1H, H-4'), 4.14 (m, 1H, H-3'), 4.60 (m, 1H, H-2'), 4.66 (br s, 2H, CH2), 5.16 (d, J=4.4 Hz, 1H, exchangeable with D2O, 3'-OH), 5.34 (br s, 1H, exchangeable with D2O, 5'-OH), 5.43 (d, J=6.1 Hz, 1H, exchangeable with D2O, 2'-OH), 5.89 (d, J=6.0 Hz, 1H, H-1'), 7.11 (pseudo t, J=8.0 and 7.8 Hz, 1H, H-5"), 7.36 (d, J=7.6 Hz, 1H, H-4" or -6"), 7.58 (d, J=7.8 Hz, 1H, H-4" or -6"), 7.72 (s, 1H, H-2"), 8.21 (s, 1H, H-2 or 8), 8.40 (s, 1H, H-2 or 8), 8.48 (br s, 1H, exchangeable with D2O, N6H,).

reactant | 6-chloropurine riboside | 0.35 mmol, 100 mg | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | triethylamine | 1.05 mmol, 0.146 ml | C(C)N(CC)CC | C6H15N
reactant | 3-iodobenzylamine hydrochloride | 0.38 mmol, 103 mg | Cl.IC=1C=C(CN)C=CC1
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | N6 -(3-iodobenzyl)-9-[β-D-ribofuranosyl]-adenine | 148 mg, 88% | IC=1C=C(CNC2=C3N=CN(C3=NC=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC1 | C17H18IN5O4
